US04843085
2.22 g of dimethyl 2,6-dimethyl-4-[(4-bromobutoxy)-5-nitro-phenyl]pyridine-3,5-dicarboxylate and 1.4 g of 3-phenoxypropylamine were dissolved in 30 ml of acetonitrile and refluxed with heating for two hours. After evaporating the solvent, the residue was subjected to silica gel column chromatography and eluted with chloroform - methanol (95:5) to give 1.8 g of caramel-like dimethyl 2,6-dimethyl-4-[5-nitro-2-[4-[(3-phenoxypropyl)amino]butoxy]phenyl]pyridine3,5-dicarboxylate. The compound thus obtained in 29 ml of ethanol was dissolved and to the solution was added a solution of 0.2 g of anhydrous oxalic acid in 5 ml of ethanol. The resultant solution was allowed to stand overnight at 4° C. The precipitated crystals were collected by filtration and recrystallized from ethanol to give 1.5 g of dimethyl 2,6-dimethyl-4-[5-nitro-2-[4-[(3-phenoxypropyl)amino]butoxy]phenyl]pyridine-3,5-dicarboxylate oxalate. This compound has the following physico-chemical properties:

reactant | dimethyl 2,6-dimethyl-4-[(4-bromobutoxy)-5-nitro-phenyl]pyridine-3,5-dicarboxylate | 2.22 g | CC1=NC(=C(C(=C1C(=O)OC)C1=C(C=CC(=C1)[N+](=O)[O-])OCCCCBr)C(=O)OC)C | C21H23BrN2O7
reactant | 3-phenoxypropylamine | 1.4 g | O(C1=CC=CC=C1)CCCN | C9H13NO
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | dimethyl 2,6-dimethyl-4-[5-nitro-2-[4-[(3-phenoxypropyl)amino]butoxy]phenyl]pyridine3,5-dicarboxylate | CC1=NC(=C(C(=C1C(=O)OC)C1=C(C=CC(=C1)[N+](=O)[O-])OCCCCNCCCOC1=CC=CC=C1)C(=O)OC)C | C30H35N3O8
